US04851519
0.38 g of 5'-azido-2',5'-dideoxy-5-n-propyluridine was dissolved in 100 ml of ethanol and the solution was hydrogenated in the presence of 0.1 g of 10% palladium-on-charcoal catalyst for 2 hours at room temperature and under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated to give 5'-amino-2',5'-dideoxy-5-n-propyluridine in the form of a solid which was used without further purification.

reactant | 5'-azido-2',5'-dideoxy-5-n-propyluridine | 0.38 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CCC)O | C12H17N5O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
product | 5'-amino-2',5'-dideoxy-5-n-propyluridine | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CCC)O | C12H19N3O4
